US04017532
Preparation of 10-Chloro-11b-(2-fluorophenyl)-7-(2-hydroxyethyl)-2,3,5,11b-tetrahydrooxazolo[3,2-d][1,4]benzodiazepin-6(7H)-one Method A
A solution of 3.3 g (0.01 M) of 7-chloro-1-(2-hydroxyethyl)-5-(2-fluorophenyl)-1,3-dihyrdo-2H-1,4-benzodiazepin-2-one in 40 ml of 1,2-dichloro ethane under nitrogen was treated with 5.2 g (0.02 M) of stannic chloride with stirring. After 20 min, the mixture was cooled in an ice bath and 2.6 g (0.06 M) of ethylene oxide was added. After 1 hr at room temperature, the reaction mixture was made basic with ammonium hydroxide and filtered. The precipitate was washed with dichloromethane, and the combined filtrates were separated. The organic layer was washed with 40 ml of dilute ammonium hydroxide, dried over anhydrous sodium sulfate and evaporated to dryness. The residue was crystallized from a mixture of ether and petroleum ether and recrystallized from toluene to give the above named product as white prisms, mp 142°-147°.

reactant | 7-chloro-1-(2-hydroxyethyl)-5-(2-fluorophenyl)-1,3-dihyrdo-2H-1,4-benzodiazepin-2-one | 0.01 M, 3.3 g | ClC=1C=CC2=C(C(=NCC(N2CCO)=O)C2=C(C=CC=C2)F)C1 | C17H14ClFN2O2
reactant | ethylene oxide | 0.06 M, 2.6 g | C1CO1 | C2H4O
reactant | ammonium hydroxide | [OH-].[NH4+]
solvent | 1,2-dichloro ethane | 40 ml | ClCCCl | C2H4Cl2
product | 10-Chloro-11b-(2-fluorophenyl)-7-(2-hydroxyethyl)-2,3,5,11b-tetrahydrooxazolo[3,2-d][1,4]benzodiazepin-6(7H)-one | ClC=1C=CC2=C(C3(N(CC(N2CCO)=O)CCO3)C3=C(C=CC=C3)F)C1 | C19H18ClFN2O3
